US08541411B2
b) 4-bromo-2-methoxy-6-nitrobenzenamine
NaOAc (17.6 g) and Br2 (6.76 mL) was added to a solution of 2-methoxy-6-nitrobenzenamine (21.74 g) in HOAc (250 mL). The mixture was stirred at room temperature for 20 min. The resulting precipitate was filtered, washed with water and dried in-vacuo to afford the desired product as a yellow solid (26.43 g, 83%). 1H NMR (300 MHz, DMSO-d6) δ 3.91 (s, 3H), 7.18 (d, 1H, J=1.8 Hz), 7.70 (d, 1H, J=1.8 Hz); LC-MS: m/e=247 [M+1]+.

reactant | NaOAc | 17.6 g | CC(=O)[O-].[Na+]
reactant | Br2 | 6.76 mL | BrBr | Br2
reactant | 2-methoxy-6-nitrobenzenamine | 21.74 g | COC1=C(C(=CC=C1)[N+](=O)[O-])N | C7H8N2O3
solvent | HOAc | 250 mL | CC(=O)O | C2H4O2
product | 4-bromo-2-methoxy-6-nitrobenzenamine | 26.43 g, 83% | BrC1=CC(=C(C(=C1)[N+](=O)[O-])N)OC | C7H7BrN2O3
